US08703805B2
Preparation of 4-{[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]methyl}morpholine
A mixture of 3-bromomethyl-1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-thiophen-2-yl]-1H-pyrazole (51 mg, 0.1 mmol), K2CO3 (42 mg, 0.3 mmol), KI (10 mg), and morpholine (0.3 mmol) in anhydrous MeCN (5 mL) was stirred at 90° C. for 6 h under N2. The solid was filtered off, and the filtrate was concentrated in vacuo. The crude product was purified by flash chromatography (0-80% EtOAc/hexanes) to give the title compound as a pale-yellow solid (50 mg, 96%). 1HNMR (CDCl3): δ 8.04 (m, 1H), 7.82 (m, 1H), 7.72 (m, 1H), 7.57-7.43 (m, 5H), 7.20 (d, 1H), 6.75 (d, 1H), 6.66 (s, 1H), 3.77 (m, 4H), 3.66 (s, 2H), 3.07 (s, 3H), 2.60 (m, 4H). MS(ES): 514 [M+H]+.

reactant | 3-bromomethyl-1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-thiophen-2-yl]-1H-pyrazole | 0.1 mmol, 51 mg | BrCC1=NN(C(=C1)C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C1=C(C=CC=C1)Cl | C21H16BrClN2O2S2
reactant | K2CO3 | 0.3 mmol, 42 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | morpholine | 0.3 mmol | N1CCOCC1 | C4H9NO
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 4-{[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]methyl}morpholine | 50 mg, 96% | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)CN1CCOCC1 | C25H24ClN3O3S2
